US05451688
(4R,6R)-6-{2-[(1S,2S,6S,8S,8aR)-1,2,6,7,8,8a-Hexahydro-6-t-butyldimethylsilyloxy-8-(2-ethylbutyryloxy)-2-methyl-1-naphthyl]ethyl)tetrahydro-4-t-butyldimethylsilyloxy-2H-pyran-2-one
1.26 ml (9.1 mmol) of triethylamine, 15 mg (0.1 mmol) of 4-(1-pyrrolidinyl)pyridine and 0.63 ml (2.73 mmol) of 2-ethylbutyric anhydride were added to a solution of 1.00 g (1.8 mmol) of (4R,6R)-6-{2[(1S,2S,6S,8S,8aR)-1,2,6,7,8,8a-hexahydro-6-t-butyldimethylsilyloxy-8-hydroxy-2-methyl-1-naphthyl]ethyl}-tetrahydro-4-t-butyldimethylsilyloxy-2H-pyran-2-one [prepared as described in Example B, above] in 10 ml of methylene chloride, whilst ice-cooling. The resulting mixture was stirred at room temperature for 3 days. At the end of this time, the reaction mixture was diluted with 50 ml of ethyl acetate and the diluted mixture was then washed with 20 ml of water, a 10% w/v aqueous solution of citric acid, 20 ml of a saturated aqueous solution of sodium hydrogencarbonate and 20 ml of a saturated aqueous solution of sodium chloride, in that order. The washed mixture was then dried over anhydrous magnesium sulfate, after which the mixture was filtered. The filtrate thus obtained was concentrated by evaporation under reduced pressure, and the resulting concentrate was purified by flash column chromatography through silica gel, using a 5:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 1.04 g (88% yield) of the title compound.

reactant | triethylamine | 9.1 mmol, 1.26 ml | C(C)N(CC)CC | C6H15N
reactant | 2-ethylbutyric anhydride | 2.73 mmol, 0.63 ml | C(C)C(C(=O)OC(C(CC)CC)=O)CC | C12H22O3
reactant | (4R,6R)-6-{2[(1S,2S,6S,8S,8aR)-1,2,6,7,8,8a-hexahydro-6-t-butyldimethylsilyloxy-8-hydroxy-2-methyl-1-naphthyl]ethyl}-tetrahydro-4-t-butyldimethylsilyloxy-2H-pyran-2-one | 1.8 mmol, 1.00 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=C2C=C[C@@H]([C@@H]([C@H]2[C@H](C1)O)CC[C@@H]1C[C@H](CC(O1)=O)O[Si](C)(C)C(C)(C)C)C | C30H54O5Si2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | 4-(1-pyrrolidinyl)pyridine | 0.1 mmol, 15 mg | N1(CCCC1)C1=CC=NC=C1 | C9H12N2
product | (4R,6R)-6-{2-[(1S,2S,6S,8S,8aR)-1,2,6,7,8,8a-Hexahydro-6-t-butyldimethylsilyloxy-8-(2-ethylbutyryloxy)-2-methyl-1-naphthyl]ethyl)tetrahydro-4-t-butyldimethylsilyloxy-2H-pyran-2-one | 1.04 g, 88% yield | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=C2C=C[C@@H]([C@@H]([C@H]2[C@H](C1)OC(C(CC)CC)=O)CC[C@@H]1C[C@H](CC(O1)=O)O[Si](C)(C)C(C)(C)C)C | C36H64O6Si2
